.include data.net
*
* Circuit simulator for t2
*
* NGSPICE simulation script
* BJT amp with feedback
*
*CIRCUITO
.options savecurrents


* Boundary Conditions
.ic V(6)=5.528929 V(9)=-2.77468

* supply voltage
Vs 1 0 Vss ac 1.0 sin(0 1.0 6283.185307)

* Resistances
R1 1 2 RR1
R2 2 3 RR2
R3 2 5 RR3
R4 0 5 RR4
R5 5 6 RR5
R6 0 7 RR6
R7 9 8 RR7

* Voltage Sources
Vee 7 9 0
Hc 5 8 Vee Kd

* Current Sources
Gb 6 3 2 5 Kb

* Capacitors
C 6 8 Cc


*Control commads
.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op


echo "********************************************"
echo  "Operating point"
echo "********************************************"

print @R1[i]

echo  "op_TAB"
print all
echo  "op_END"


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy ns.ps v(6)
echo ns_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

*ac dec 10 10 100MEG

hardcopy npfs.ps v(6)
echo npfs_FIG

*plot v(6)

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 1e-1 1MEG

let Vc = V(6)-V(8)


hardcopy mag.ps db(v(6)) db(v(1)) db(Vc)
echo mag_FIG
hardcopy phase.ps vp(6) vp(1) vp(Vc)
echo phase_FIG

*plot v(6)

quit
.endc

.end